US08012974B2
3,5-Dibromo-pyrazin-2-ylamine (1.70 g, 6.70 mmol), TEA (1.1 mL, 8.04 mmol), PdCl2(PPh3)4 (28 mg, 0.040 mmol), and CuI (15 mg, 0.080 mmol) were dissolved in THF (17 mL), cooled to RT and Trimethyl-prop-2-ynyl-silane (1.0 mL, 6.7 mmol) was added at 0° C., allowed to warm up to RT and stirred overnight. The reaction mixture was diluted with EtOAc, washed with H2O and saturated aqueous NaHCO3, dried (MgSO4) and concentrated, and purified by SiO2 chromatography (80 g SiO2, hexanes/EtOAc 0-35% EtOAc) to give 1.66 g of 5-bromo-3-(3-trimethylsilanyl-prop-1-ynyl)-pyrazin-2-ylamine as a yellow semi-solid contaminated by starting material (87% yield, 66% purity).

reactant | 3,5-Dibromo-pyrazin-2-ylamine | 6.70 mmol, 1.70 g | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
reactant | Trimethyl-prop-2-ynyl-silane | 6.7 mmol, 1.0 mL | C[Si](CC#C)(C)C | C6H12Si
solvent | THF | 17 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | CuI | 0.080 mmol, 15 mg | [Cu]I
product | 5-bromo-3-(3-trimethylsilanyl-prop-1-ynyl)-pyrazin-2-ylamine | 1.66 g, 87% yield | BrC=1N=C(C(=NC1)N)C#CC[Si](C)(C)C | C10H14BrN3Si
